US07939526B2
Trimethyl orthobutyrate (1.90 g, 12.7 mmol) and pyridine hydrochloride (0.13 g, 1.2 mmol) were added to a suspension of 1-[(3-aminoquinolin-4-yl)amino]-2-methylpropan-2-ol (prepared as described in Part A of Example 8, approximately 2.7 g, 11.5 mmol) in acetonitrile (60 mL). The reaction mixture was heated at reflux for 45 minutes with a Dean Stark trap, then was allowed to cool to room temperature and was concentrated under reduced pressure. The crude product was subjected to flash chromatography (silica gel, eluted with 5% methanol in dichloromethane) to yield a mixture of compounds that were combined and resubjected to the reaction conditions. The mixture was allowed to cool to room temperature and was concentrated under reduced pressure to afford 1-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol as a white solid that was used in the next step without purification.

reactant | Trimethyl orthobutyrate | 12.7 mmol, 1.90 g | C(CCC)(OC)(OC)OC | C7H16O3
reactant | pyridine hydrochloride | 1.2 mmol, 0.13 g | Cl.N1=CC=CC=C1
reactant | 1-[(3-aminoquinolin-4-yl)amino]-2-methylpropan-2-ol | NC=1C=NC2=CC=CC=C2C1NCC(C)(O)C | C13H17N3O
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 1-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol | C(CC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)(O)C | C17H21N3O
